US08461179B1
A suspension of 3-(5-amino-4-fluoro-2-iodophenyl)-1-ethyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (0.310 g, 0.707 mmol) in DCM (10 mL) was treated with phenyl isocyanate (0.100 g, 0.839 mmol) followed by pyridine (0.060 g, 0.759 mmol) and stirred at RT for 3 h. The mixture was concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford 1-(5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluoro-4-iodophenyl)-3-phenylurea (120 mg, 29% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.08 (s, 1H), 8.66 (s, 1H), 8.41 (s, 1H), 8.14 (d, J=8.3 Hz, 1H), 7.77 (d, J=10.6 Hz, 1H), 7.64 (s, 1H), 7.41 (d, J=8.0 Hz, 2H), 7.26 (t, J=7.7 Hz, 2H), 7.05 (m, 2H), 6.24 (s, 1H), 4.14 (d, J=8.1 Hz, 2H), 2.86 (d, J=4.8 Hz, 3H), 1.22 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 558.1 [M+H]+.

reactant | 3-(5-amino-4-fluoro-2-iodophenyl)-1-ethyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 0.707 mmol, 0.310 g | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)I)F | C17H16FIN4O
reactant | phenyl isocyanate | 0.839 mmol, 0.100 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | pyridine | 0.759 mmol, 0.060 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluoro-4-iodophenyl)-3-phenylurea | 120 mg, 29% yield | C(C)N1C(C(=CC2=CN=C(C=C12)NC)C=1C(=CC(=C(C1)NC(=O)NC1=CC=CC=C1)F)I)=O | C24H21FIN5O2
